US07071340B2
531 mg (3.54 mmol) of sodium iodide are added to 894 mg (3.54 mmol) of 5-acetyl-2-{[2-(chloromethyl)-2-propenyl]oxy}benzaldehyde in solution in 10 ml of distilled acetone. The medium is brought to reflux and is stirred for 5 hours. Water is added and then the solution is concentrated. After the addition of water and dichloromethane, the phases are separated by settling and then the aqueous phase is extracted with dichloromethane. The combined organic phases are washed, dried and then concentrated under vacuum to give 1.22 g (100%) of 5-acetyl-2-{[2-(iodomethyl)-2-propenyl]oxy}benzaldehyde in the form of a white solid which turns yellow in air; 1H NMR (300 MHz, CDCl3): 10.46 (s, 1H), 8.34 (d, J=2.4 Hz, 1H), 8.15 (dd, J=2.4 Hz and 8.7 Hz, 1H), 7.08 (d, J=8.7 Hz, 1H), 5.52 and 5.32 (2s, 2H), 4.86 (s, 2H), 4.01 (s, 2H), 2.54 (s, 3H).

reactant | sodium iodide | 3.54 mmol, 531 mg | [I-].[Na+]
reactant | 5-acetyl-2-{[2-(chloromethyl)-2-propenyl]oxy}benzaldehyde | 3.54 mmol, 894 mg | C(C)(=O)C=1C=CC(=C(C=O)C1)OCC(=C)CCl | C13H13ClO3
reactant | Water | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 5-acetyl-2-{[2-(iodomethyl)-2-propenyl]oxy}benzaldehyde | 1.22 g, 100% | C(C)(=O)C=1C=CC(=C(C=O)C1)OCC(=C)CI | C13H13IO3
